US04658039
Acemetacin
31.9 g of acemetacin allyl ester, 100 ml of toluene, 2.3 g of triphenylphosphine and 0.75 g of palladium on charcoal (5% strength) are taken as an initial charge, under nitrogen. 11.9 g of piperidine are added dropwise, with stirring, and the mixture is then stirred for a further 3 hours at 90° C. It is filtered hot and the catalyst is rinsed with hot toluene. The filtrate is evaporated, the residue is taken up in methylene chloride (about 300 ml) and this solution is washed with half-concentrated hydrochloric acid (100 ml) and then with water. After removal of the solvent in vacuo, the residue is recrystallized from toluene.

reactant | Allyl 1-(4-chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxyacetate | 31.9 g | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CC(=O)OCC(=O)OCC=C)C)C=C1 | C24H22ClNO6
reactant | triphenylphosphine | 2.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | piperidine | 11.9 g | N1CCCCC1 | C5H11N
catalyst | palladium on charcoal | 0.75 g | [Pd] | Pd
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Acemetacin | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)OCC(=O)O | C21H18ClNO6
